US07501440B2
3′-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxamide
The mixture consisting of 50 mg of 3′-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid, 0.5 ml of DMF, 6.1 mg of ammonium chlorid, 40 μl of Hunig's base and 37.3 mg of Totu was stirred at room temperature for 2 hours. Afterwards, it was diluted with 5 ml of water and the mixture was stirred briefly. The precipitate was filtered of with suction and dried under reduced pressure.

reactant | 3′-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid | 50 mg | ClC1=C(C(=O)NC(NC=2C(=NC=CC2)N2CCC(CC2)C(=O)O)=O)C=C(C(=C1)F)F | C19H17ClF2N4O4
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | ammonium chlorid | 6.1 mg | [Cl-].[NH4+]
reactant | Hunig's base | 40 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | water | 5 ml | O | H2O
product | 3′-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxamide | ClC1=C(C(=O)NC(NC=2C(=NC=CC2)N2CCC(CC2)C(=O)N)=O)C=C(C(=C1)F)F | C19H18ClF2N5O3
